US04288592
Preparation of N-(2,4,5-Trichlorophenyl)trifluoromethanesulfonamide
Trifluoromethanesulfonic anhydride (28.2 g; 0.1 mole) is added portionwise into a stirred suspension of 2,4,5-trichloroaniline (19.6 g; 0.1 mole) and powdered Type 3A molecular sieves (20 g; Union Carbide Corporation) in dichloromethane (150 mls) at 0° C. under a nitrogen atmosphere. After the addition is completed, the mixture is stirred at room temperature for 18 hours. The reaction mixture is then filtered and the solid is further washed with warm dichloromethane. Evaporation of the filtrate gives 22.31 grams (68% of theoretical) of crude product which, after recrystallization from methylcyclohexane, melts at 104°-106° C.

reactant | Trifluoromethanesulfonic anhydride | 0.1 mole, 28.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,4,5-trichloroaniline | 0.1 mole, 19.6 g | ClC1=C(N)C=C(C(=C1)Cl)Cl | C6H4Cl3N
solvent | dichloromethane | 150 mls | ClCCl | CH2Cl2
product | N-(2,4,5-Trichlorophenyl)trifluoromethanesulfonamide | ClC1=C(C=C(C(=C1)Cl)Cl)NS(=O)(=O)C(F)(F)F | C7H3Cl3F3NO2S
